US06884821B1
Using (4-phenoxyphenyl)methanol and 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 2-isopropoxy-3-(4-methoxy-3-[(4-phenoxybenzyl)oxy]methylphenyl)propanoic acid was obtained in the same method as in Example 247).

reactant | (4-phenoxyphenyl)methanol | O(C1=CC=CC=C1)C1=CC=C(C=C1)CO | C13H12O2
reactant | 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | BrCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 2-isopropoxy-3-(4-methoxy-3-[(4-phenoxybenzyl)oxy]methylphenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)COCC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H30O6
